### PR TITLE
[Merged by Bors] - refactor(Data/Nat/Factorization/Defs): redefine `Nat.factorization` in terms of `primeFactorsList` instead of `padicValNat`

### PR DESCRIPTION
**Pull request by tb65536**
This PR redefines `Nat.factorization` in terms of `primeFactorsList` instead of `padicValNat`. This will allow `Nat.factorization` to remain computable even as `padicValNat` is deprecated in favor of the non-computable `multiplicity`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Factorization/Defs.lean [hunk 1]
```diff
@@ -49,28 +49,22 @@ variable {a b n p : ℕ}
...
-theorem factorization_le_padicValNat {n p : ℕ} : n.factorization p ≤ padicValNat p n := by
-  grind [Nat.factorization]
+theorem primeFactorsList_count_eq {n p : ℕ} : n.primeFactorsList.count p = n.factorization p := by
+  simp [factorization]
 
 /-- We can write both `n.factorization p` and `n.factors.count p` to represent the power
 of `p` in the factorization of `n`: we declare the former to be the simp-normal form. -/
 @[simp]
-theorem primeFactorsList_count_eq {n p : ℕ} : n.primeFactorsList.count p = n.factorization p := by
+theorem factorization_def (n : ℕ) {p : ℕ} (pp : p.Prime) : n.factorization p = padicValNat p n := by
```
Comment (jcommelin) [inline Mathlib/Data/Nat/Factorization/Defs.lean:62]: Do you want to now rename this, and deprecate this `_def` version?
```suggestion
theorem factorization_eq_padicValNat (n : ℕ) {p : ℕ} (pp : p.Prime) : n.factorization p = padicValNat p n := by
```

Comment (tb65536) [reply Mathlib/Data/Nat/Factorization/Defs.lean:62]: Well, we want both statements (connecting `Nat.factorization` with both `Nat.primeFactorsList` and `padicValNat` (which will eventually be replaced by `multiplicity`)), and I thought that renaming might be a bit confusing deprecation-wise for now.

**Comment by b-mehta** [comment]
> computable even as `padicValNat` is deprecated in favor of the non-computable `multiplicity`.

Hold on, can't we define Nat.factorization in terms of [Nat.maxPowDvdDiv](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Nat/MaxPowDiv.html#Nat.maxPowDvdDiv), which is the efficient one used by padicValNat anyway? Then we get computability, efficiency, and we can safely kill `multiplicity`.

**Comment by b-mehta** [comment]
If you don't like my previous idea, then maybe [Multiset.toFinsupp](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Finsupp/Multiset.html#Multiset.toFinsupp) should be used, since you're building the finsupp out of a list (via a multiset) anyway

**Comment by SnirBroshi** [comment]
`Multiset.toFinsupp` is `noncomputable`

**Comment by tb65536** [comment]
> Hold on, can't we define Nat.factorization in terms of [Nat.maxPowDvdDiv](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Nat/MaxPowDiv.html#Nat.maxPowDvdDiv), which is the efficient one used by padicValNat anyway? Then we get computability, efficiency, and we can safely kill `multiplicity`.

It's not any more efficient unfortunately, since you still need to compute `n.primeFactors`.

**Comment by b-mehta** [comment]
> `Multiset.toFinsupp` is `noncomputable`

that's so annoying - it's just because it's bundled. the .toFun field is computable :/

**Comment by SnirBroshi** [comment]
Yeah, maybe it should be split to `toFinsupp` and `toFinsuppAddEquiv`

**Comment by tb65536** [comment]
Ok, I'll leave this PR as-is for now. But once #43620 is merged, then the code can be cleaned up with `Multiset.toFinsupp`.

**Comment by b-mehta** [comment]
Thanks!

bors merge
